US04273782
A mixture of 5-bromo-1-(2-carboxyethyl)-3-(1-imidazolylmethyl) indole (0.87 g) and N,N'-carbonyldiimidazole (0.51 g) was heated on a steam bath for 1.5 hours to give a clear melt. Methanesulphonamide (0.47 g) was added and the mixture was heated at 120° C. for 2 hours and then cooled and dissolved in a small volume of ethanol. Some insoluble material was filtered off and the filtrate was evaporated and the residue was chromatographed on silica gel. Elution with chloroform gave initially some impurity. Further elution with a mixture of chloroform and methanol (9:1) gave a mixture of product and imidazole. The product containing fractions were evaporated and the residue was crystallised from a mixture of methanol and ether to give 5-bromo-1-[2-(N-methanesulphonylcarbamoyl)ethyl]-3-(1-imidazolylmethyl)indole (0.31 g,), m.p. 199°-201° C. Found: C, 45.21; H, 4.18; N, 12.95. C16H17BrN4O3S requires: C, 45.18; H, 4.03; N, 13.17%.

reactant | 5-bromo-1-(2-carboxyethyl)-3-(1-imidazolylmethyl) indole | 0.87 g | BrC=1C=C2C(=CN(C2=CC1)CCC(=O)O)CC=1NC=CN1 | C15H14BrN3O2
reactant | Methanesulphonamide | 0.47 g | CS(=O)(=O)N | CH5NO2S
reactant | imidazole | N1C=NC=C1 | C3H4N2
solvent | ethanol | C(C)O | C2H6O
product | 5-bromo-1-[2-(N-methanesulphonylcarbamoyl)ethyl]-3-(1-imidazolylmethyl)indole | 0.31 g | BrC=1C=C2C(=CN(C2=CC1)CCC(NS(=O)(=O)C)=O)CC=1NC=CN1 | C16H17BrN4O3S
